US07683056B2
ethyl 1,4-dioxo-2-(phenylmethyl)hexahydropyrrolo[1,2-a]pyrazine-8a(6H)-carboxylate (D65)
To a solution of diethyl 1-(bromoacetyl)-2,2-pyrrolidinedicarboxylate (D64, 950 mg) in acetonitrile (10 mL) at r.t, benzylamine (340 microL) was added. The resulting mixture was stirred at r.t. for 3.5 hours: the formation of a white solid was observed. The suspension was then filtered over a Gooch funnel. The organic filtrate was diluted with ethyl acetate (15 mL) and washed with water (2×10 mL). The organic phase was dried and concentrated in vacuo to a residue which was purified by flash chromatography (Cycl/EtOAc from 50/50 to 35:65) to give the desired compound (200 mg) as colourless oil.

reactant | diethyl 1-(bromoacetyl)-2,2-pyrrolidinedicarboxylate | 950 mg | BrCC(=O)N1C(CCC1)(C(=O)OCC)C(=O)OCC | C12H18BrNO5
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | ethyl 1,4-dioxo-2-(phenylmethyl)hexahydropyrrolo[1,2-a]pyrazine-8a(6H)-carboxylate | 200 mg | O=C1C2(N(C(CN1CC1=CC=CC=C1)=O)CCC2)C(=O)OCC | C17H20N2O4
